US07838675B2
i) 1,4-Dioxa-8-azaspiro[4.5]decane-8-sulfonamide
A solution of 1,4-dioxa-8-aza-spiro[4.5]decane (2 mL) and sulfamide (1.65 g) in 1,4-dioxane (28 mL) was heated at reflux for 48 h, then the volatiles were evaporated to afford the title compound as a pale yellow solid. Yield: 3.4 g

reactant | 1,4-dioxa-8-aza-spiro[4.5]decane | 2 mL | O1CCOC12CCNCC2 | C7H13NO2
reactant | sulfamide | 1.65 g | S(=O)(=O)(N)N | H4N2O2S
solvent | 1,4-dioxane | 28 mL | O1CCOCC1 | C4H8O2
product | 1,4-Dioxa-8-azaspiro[4.5]decane-8-sulfonamide | O1CCOC12CCN(CC2)S(=O)(=O)N | C7H14N2O4S
